US09447090B2
A mixture of 1 g of tert-butyl (2-bromobenzyl)carbamate, 1.12 g of ethyl (2E)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)acrylate, 16 mg of palladium acetate, 72 mg of dicyclohexyl(2′,6′-dimethoxybiophenyl-2-yl)phosphine, 1.5 g of potassium phosphate, and 20 mL of toluene was stirred at 100° C. for 5 days. To the reaction mixture was added ether, followed by filtration through silica gel. The filtrate was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography to obtain 412 mg of ethyl (2E)-3-(2-{[(tert-butoxycarbonyl)amino]methyl}phenyl)acrylate.

reactant | tert-butyl (2-bromobenzyl)carbamate | 1 g | BrC1=C(CNC(OC(C)(C)C)=O)C=CC=C1 | C12H16BrNO2
reactant | ethyl (2E)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)acrylate | 1.12 g | CC1(OB(OC1(C)C)/C=C/C(=O)OCC)C | C11H19BO4
reactant | potassium phosphate | 1.5 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 16 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ether | CCOCC | C4H10O
product | ethyl (2E)-3-(2-{[(tert-butoxycarbonyl)amino]methyl}phenyl)acrylate | 412 mg | C(C)(C)(C)OC(=O)NCC1=C(C=CC=C1)/C=C/C(=O)OCC | C17H23NO4
